US07829580B2
(e) (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]methylidene}piperidine
To a solution of (E)-4-(acetylsulfanyl)-3-{[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]methylidene}piperidine hydrogen trifluoroacetate (6.03 g) in acetonitrile (100 ml) were added 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone (5.0 g) and triethylamine (3.5 ml). The resulting mixture was stirred at room temperature for 15 minutes. Then, the reaction was stopped by addition of a saturated aqueous sodium chloride solution, and the products were extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The residue was purified by chromatography on silica gel using a mixture of hexane, ethyl acetate and dichloromethane (1:1:1) as the eluent to afford the title compound as a pale yellow amorphous solid (5.11 g, yield: 75%).

reactant | (E)-4-(acetylsulfanyl)-3-{[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]methylidene}piperidine hydrogen trifluoroacetate | 6.03 g | FC(C(=O)O)(F)F.C(C)(=O)SC1/C(/CNCC1)=C/C=1N=NN(C1)CC1=CC=C(C=C1)OC
reactant | 2-bromo-2-(2-fluorophenyl)-1-cyclopropylethanone | 5.0 g | BrC(C(=O)C1CC1)C1=C(C=CC=C1)F | C11H10BrFO
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (E)-4-(Acetylsulfanyl)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(4-methoxybenzyl)-1H-1,2,3-triazol-4-yl]methylidene}piperidine | 5.11 g, yield: 75% | C(C)(=O)SC1/C(/CN(CC1)C(C(=O)C1CC1)C1=C(C=CC=C1)F)=C/C=1N=NN(C1)CC1=CC=C(C=C1)OC | C29H31FN4O3S
